US07652041B2
Step 3: Preparation of 2-tert-butyl-4-nitroaniline
N-(2-tert-butyl-4-nitrophenyl)acetamide (840 mg, 3.57 mmol) was dissolved in concentrated HBr (48%, 20 mL). The resulting solution was heated at 110° C. for 3 h. The reaction mixture was cooled to rt, diluted with EtOAc, and poured into sat. NaHCO3 solution. The organic phase was extracted with sat. NaHCO3 solution and brine, dried over Na2SO4, filtered and concentrated to give the desired product as a yellow-green oil (710 mg, >100%). 1H NMR (400 MHz, CD3OD) δ: 7.52 (d, 1H), 7.40 (dd, 1H), 7.33 (d, 1H), and 1.42 (s, 9H).

reactant | N-(2-tert-butyl-4-nitrophenyl)acetamide | 3.57 mmol, 840 mg | C(C)(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])NC(C)=O | C12H16N2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HBr | 20 mL | Br | BrH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-tert-butyl-4-nitroaniline | 710 mg, >100% | C(C)(C)(C)C1=C(N)C=CC(=C1)[N+](=O)[O-] | C10H14N2O2
